US08183239B2
N-{4-[1-(Diethylcarbamoyl-phenyl-methyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-3-fluoro-phenyl}-2-ethyl-butyramide
To a solution of 4-[4-(2-ethyl-butyrylamino)-2-fluoro-phenyl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (96 mg, 0.25 mmol) in MeOH (5 mL) was added HCl (2 mL, 1 M in Et2O). After 16 h at 25° C., the mixture was concentrated and the residue re-dissolved in DMF (2 mL). The solution was treated with 2-chloro-N,N-diethyl-2-phenyl-acetamide (225 mg, 0.32 mmol) and K2CO3 (138 mg, 1.0 mmol), and was stirred at 25° C. for 16 h. The resulting mixture was purified by PTLC to provide the title compound (25 mg, 21%). MS: 480.4. 1H NMR (CDCl3): 7.57-7.45 (m, 3H), 7.40-7.27 (m, 4H), 7.20-7.06 (m, 2H), 5.90 (s, 1H), 4.43 (s, 1H), 3.55-3.15 (m, 6H), 2.92-2.83 (m, 1H), 2.74-2.64 (m, 1H), 2.53-2.44 (m, 2H), 2.07-1.98 (m, 1H), 1.76-1.47 (m, 4H), 1.17-0.90 (m, 12H).

reactant | 4-[4-(2-ethyl-butyrylamino)-2-fluoro-phenyl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.25 mmol, 96 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C(C=C(C=C1)NC(C(CC)CC)=O)F | C22H31FN2O3
reactant | HCl | 1 M, 2 mL | Cl | ClH
reactant | 2-chloro-N,N-diethyl-2-phenyl-acetamide | 0.32 mmol, 225 mg | ClC(C(=O)N(CC)CC)C1=CC=CC=C1 | C12H16ClNO
reactant | K2CO3 | 1.0 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 5 mL | CO | CH4O
product | N-{4-[1-(Diethylcarbamoyl-phenyl-methyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-3-fluoro-phenyl}-2-ethyl-butyramide | 25 mg, 21% | C(C)N(C(=O)C(N1CCC(=CC1)C1=C(C=C(C=C1)NC(C(CC)CC)=O)F)C1=CC=CC=C1)CC | C29H38FN3O2
